Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
DOE, Fatigue, L thigh pain; Hypotension 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is an ___ year old male, s/p TAVR on ___, HTN, 
sinus bradycardia s/p ppm, left thoracotomy for fibrous lesions, 
and BPH s/p TURP, who presented to ED with hypotension. Patient 
had TAVR performed on ___, since that time he has had volatile 
blood pressures. He was initiated on amlodipine for 
hypertension, recently discontinued amlodipine for low BP's in 
80's, then
resumed due to high BP's up to 170's. This morning with blood 
pressure of 88/47 with associated shortness of breath, unable to 
walk down the street, presyncope. 
No falls or headstrike. 
He denies chest pain associated with symptoms. Denies changes in 
vision or hearing. No new rashes, lesions, wounds. He does note 
right and left lateral thigh pain, reports he had bilateral 
femoral punctures for TAVR procedure. No fevers or chills. No 
cough. 

 
Past Medical History:
HTN
dyslipidemia
spondylosis without myelopathy lumbar
BPH TURP
interepithelial neoplasia 
aortic stenosis s/p TAVR ___
sinus bradycardia s/p DDD ___ 
mild cognitive impairment
left thoracotomy for fibrous lesions ___
 
Social History:
___
Family History:
Mother: stroke
 
Physical ___:
Admission:
VS: Temp: 97.4 PO BP: 157/70 L Lying HR: 65 RR: 22 O2 sat: 99%
O2 delivery: RA  
EKG: rate 61, a paced
Tele: ___, SR, first degree av block, a paced, av paced 
Gen: Pleasant, calm. No acute distress
Neuro: Alert, oriented to person, place and time. Pleasant. Able
to follow commands. Speech clear, appropriate and 
comprehensible.
Tongue midline, smile symmetric. 
HEENT: Neck supple, JVP not distended
CV: RRR, Nl S1S2. Distant heart sounds. ___ SEM at ___  
LUNGS: CTAB. Diminished in left base. No rales, rhonchi or
wheezes
Abdomen: soft, ___
PV: WWP, No edema, erythema or hematoma noted to B/L ___ and
thighs.
Access sites for TAVR: Both femoral sites healed without
ecchymosis, hematoma or bruit. Bilateral ___ palpable. 

Discharge:
VS: Temp: 98.0 PO BP: 153/77 L Lying HR: 60 RR: 20 O2 sat: 94% 
O2 delivery: RA 
Tele: ___, a paced, v paced, av paced, SR with first degree av 
block
Weight: 75.8 kg/167 lbs
GEN: Lying in bed, NAD
NEURO: A&O x 3, pleasant and conversant, no focal deficits  
HEENT:  normocephalic, MMM, supple, trachea midline, JVP not 
distended
CV: RRR, S1S2, ___ SEM at ___
PULM: LS CTA. No rales, rhonchi or wheeze. NO respiratory 
distress
ABD: soft, nontender, BS x4
EXT: No edema bilaterally, 2+ ___, DP
SKIN: warm, dry, intact, no open lesions, No edema. No erythema
or hematoma noted to B/L ___ and thighs.
ACCESS SITE: Both femoral sites healed without
ecchymosis, hematoma or bruit. Bilateral ___ palpable.
GU: Voiding independently
 
Pertinent Results:
Admission:
----------
___ 02:35PM BLOOD ___ 
___ Plt ___
___ 02:35PM BLOOD ___ 
___ Im ___ 
___
___ 02:35PM BLOOD ___ ___
___ 02:35PM BLOOD ___ CK(CPK)-38* ___ 
___
___ 02:35PM BLOOD ___
___ 02:35PM BLOOD cTropnT-<0.01
___ 02:35PM BLOOD ___

Discharge Labs:
---------------
___ 06:30AM BLOOD ___ 
___ Plt ___
___ 06:30AM BLOOD ___ ___
___ 06:30AM BLOOD ___ 
___
___ 06:30AM BLOOD ___

___ Transthoracic echo:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 61 % (normal ___. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is 
indeterminate diastolic function.
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. A Lotus Edge aortic valve bioprosthesis is 
present. The prosthesis is well seated with HIGH gradient. The 
effective orifice area index is moderately reduced ___ 
cm2/m2). There is a paravalvular jet of trace aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is moderate mitral annular 
calcification. There is trivial mitral regurgitation. Due to 
acoustic shadowing, the severity of mitral regurgitation could 
be UNDERestimated. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
trivial tricuspid regurgitation. There is mild pulmonary artery 
systolic hypertension. There is a trivial pericardial effusion.
IMPRESSION: 1) Well seated, normal functioning Lotus TAVR with 
high gradient (moderate patient prosthesis mismatch) and trace 
paravalvular aortic regurgitation.
Compared with the prior TTE ___ , the findings are 
similar. The peak aortic velocity has increased
from 2.5 to 2.8 m/s.

___ Bilat groin Ultrasound

TECHNIQUE:  Grayscale ultrasound images were obtained of the 
superficial 
tissues of the bilateral groin areas. 
  
COMPARISON:  None 
  
FINDINGS:  
Transverse and sagittal images were obtained of the superficial 
tissues of the bilateral carotid areas.  The common femoral 
vasculature demonstrated 
bilaterally.  No pseudoaneurysms are seen. 
  
IMPRESSION:  
  
No pseudoaneurysm. 

___ Bilat venous ultrasound

Final Report 
EXAMINATION:  ___ DUP EXTEXT BIL (MAP/DVT) 
  
FINDINGS:  
There is normal compressibility, color flow, and spectral 
doppler of the 
bilateral common femoral, femoral, and popliteal veins. Normal 
color flow and compressibility are demonstrated in the posterior 
tibial and peroneal veins. Slow flow is noted within the left 
popliteal vein. There is normal respiratory variation in the 
common femoral veins bilaterally. No evidence of medial 
popliteal fossa (___) cyst. 
  
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___ CXR PA/LAT
EXAMINATION:  CHEST (PA AND LAT) 
FINDINGS:  
___ pacer with leads in the right atrium and right 
ventricle is 
___.  Heart size is normal.  Mediastinal contour is 
unchanged with a large hiatal hernia again noted.  Calcified 
mediastinal lymph nodes are compatible with prior granulomatous 
disease.  Pulmonary vasculature is not engorged.  Linear 
atelectasis is seen in the lung bases.  No focal 
consolidation.  Chain sutures are demonstrated in the left upper 
lobe.  Linear scarring in the right apex is noted.  No acute 
osseous abnormality. 
  
IMPRESSION:  
No acute cardiopulmonary abnormality. Large hiatal hernia. 
Scarring in the right apex and linear atelectasis in the lung 
bases. 

TTE ___:
CONCLUSION:
Overall left ventricular systolic function is normal. The
visually estimated left ventricular ejection fraction is >=60%.
Left ventricular cardiac index is normal (>2.5 L/min/m2). There
is a mild (peak 15 mmHg) resting left ventricular outflow tract
gradient. A Lotus Edge aortic valve bioprosthesis is present. 
The
prosthesis is well seated. The effective orifice area index is
normal (>=0.85 cm2/m2). There is no aortic regurgitation. The
mitral valve leaflets are mildly thickened. There is moderate
mitral annular calcification. There is physiologic mitral
regurgitation. Due to acoustic shadowing, the severity of mitral
regurgitation could be UNDERestimated. The pulmonic valve
leaflets are not well seen. The tricuspid valve leaflets appear
structurally normal. There is trivial tricuspid regurgitation.
The estimated pulmonary artery systolic pressure is
normal. 
Compared with the prior TTE (images reviewed) of ___ ,
gradients lower and estimated valve area higher largely driven 
by
higher LVOT VTI. LVOT also measured at 2.0m on both (eAVA
slightly UNDERmeasured on prior using LVOT 1.9cm).
 
Brief Hospital Course:
Summary:
=========
___ s/p recent TAVR on ___ presented to ED
on ___ with dyspnea, fatigue, presyncopal symptoms with
labile/low blood pressures at home and left lateral thigh pain.
 
# Presyncope/SOB: 
# Increased gradients on TTE, ?valvular thrombus.  
# SOB Acute on chronic HFPEF with AS s/p TAVR 
s/p 27mm Lotus valve placement. TTE of poor quality reflecting
elevated gradients, unclear if thrombus versus valve mismatch. 
Unable to obtain CTA given elevated creatinine. PE is likely but 
unable to get CT due to ___. B/L ___ US negative for DVT. Repeat 
TTE yesterday after INR therapeutic showed improving gradients. 
Will continue to treat empirically for thrombus with coumadin. 
INR 2.7 today.
Received iv diuresis with Lasix bolus on ___ and ___. 
Patient appears euvolemic. No signs of volume overload. JVP not 
distended. Lungs clear. No ___ edema.
- Start Lasix 20 mg po prn for weight gain, dyspnea
- Coumadin 4 mg daily (per pharmacist recs), INR check tomorrow 
with PCP
- PCP/cardiologist Dr. ___ to manage AC, updated clinic. Will 
send discharge summary
- ___ consulted for mobilization; cleared to go home with ___
- F/U with structural heart team in ___ weeks with concurrent 
echo, requested 

# Thigh pain: Post TAVR patient felt well. Started having pain 
in
right thigh few days prior to admission followed by left thigh. 
No history of
falls. On exam, no hematoma or ecchymosis to both thighs. Both
groins without bruit. Both legs without erythema or edema. ___
venous US negative for DVT b/l. B/L groin US negative for PSA.

# ___: Creat 2.2 today, down trending from 2.8. Baseline 
___. 
- Hold losartan due to ___, resume when creat 1.9
- Monitor renal function in 1 week, requisition given
- Avoid nephrotoxins
- Renally dose medications- allopurinol reduced to 50 mg daily
for GFR~30

# Hypertension: Hypertensive during last admission. Started on
amlodipine 2.5 mg daily. Recently held amlodipine at home due to 
low BP's
to 80's and then restarted due to HTN to 170's per PCP's office. 
Now BP's
___ on the floor. Orthostatics unremarkable.
- Continue amlodipine at 5 mg daily 
- Hold ___ as above, resume when creat ~1.9
 
# Hyperlipidemia: Currently not on statin. No current lipid 
panel on record.   

# Bradycardia s/p PPM implant: s/p DDD st ___. stable

# BPH: 
- continue finasteride

# Mild cognitive impairment: 
- Continue donepezil and memantine ER 
  
# DISPO: Discharge home with ___ today
 
# Transitional issues: PCP/cardiologist Dr. ___ to 
follow AC as outpatient. Clinic updated. Will send discharge 
summary.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Magnesium Oxide 500 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. amLODIPine 2.5 mg PO DAILY 
6. Donepezil 10 mg PO QHS 
7. Clopidogrel 75 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. FoLIC Acid 0.4 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. MEMAntine 28 mg oral DAILY 

 
Discharge Medications:
1.  Warfarin 4 mg PO DAILY16  
2.  Allopurinol 50 mg PO DAILY  
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Donepezil 10 mg PO QHS  
6.  Finasteride 5 mg PO DAILY  
7.  FoLIC Acid 0.4 mg PO DAILY  
8.  Magnesium Oxide 500 mg PO DAILY  
9.  MEMAntine 28 mg oral DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  
11. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until creatinine is down 
to 1.9

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis
AV Thrombus
HFpEF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You presented to hospital with shortness of breath, fatigue 
and low blood pressure.
 
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
 - You had an echocardiogram that showed slightly higher 
pressures across the new valve which indicates blood clot on the 
new valve.
 - You had an ultrasound of both legs and it was negative for 
clots.
 - You had an ultrasound of both groins and we did not find any 
bleeding or abnormalities that explain your thigh pain. 
 - You will go home on a new blood thinner called coumadin 
(warfarin). Your PCP ___ be managing coumadin 
treatment.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take all of your medications as prescribed (listed below).  
- Follow up with your doctors as listed below 
 
It is very important to take all of your heart healthy 
medications. In particular, you are now taking Aspirin and 
coumadin (warfarin). Please do not stop taking Aspirin or 
coumadin without taking to your heart doctor, even if another 
doctor tells you to stop the medications.  

You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure, and obtain a prescription from your doctor before any 
procedure.  

Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. Your weight at discharge is 167 lbs.  

If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist. 

It was a pleasure participating in your care.  

If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

-Your ___ Care Team  

 
Followup Instructions:
___